US06228829B1
Synthesis of Sodium 7-Methyltridecyl Sulfate
Into a dried 1L 3 neck round bottom flask fitted with a nitrogen inlet, dropping funnel, thermometer, mechanical stirring and nitrogen outlet is added chloroform (300 ml) and 7-methyltridecanol (107 g, 0.5 mol), prepared as an intermediate in Example I. Chlorosulfonic acid (61.3 g, 0.52 mol) is slowly added to the stirred mixture while maintaining 25-30° C. temperature with an ice bath. Once HCl evolution has stopped (1 hr.) slowly add sodium methoxide (25% in methanol) while keeping temperature at 25-30° C. until a aliquot at 5% concentration in water maintains a pH of 10.5. To the mixture is added methanol (1L) and 300 ml of 1-butanol. Vacuum filter off the inorganic salt precipitate and remove methanol from the filtrate on a rotary evaporator. Cool to room temperature, add 1L of ethyl ether and let stand for 1 hour. The precipitate is collected by vacuum filtration. The product is dried in a vacuum oven at 50C for 3 hrs. to obtain a white solid (76 g, 90% active by cat SO3 titration).

reactant | 7-methyltridecanol | 0.5 mol, 107 g | CC(CCCCCCO)CCCCCC | C14H30O
reactant | Chlorosulfonic acid | 0.52 mol, 61.3 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | Sodium 7-Methyltridecyl Sulfate | S(=O)(=O)(OCCCCCCC(CCCCCC)C)[O-].[Na+] | InChI=1S/C14H30O4S.Na/c1-3-4-5-8-11-14(2)12-9-6-7-10-13-18-19(15,16)17;/h14H,3-13H2,1-2H3,(H,15,16,17);/q;+1/p-1
